US06562840B1
4-[4-(3-Hydroxy-4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine hydrochloride
4-[4-(3-Hydroxy-4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine hydrochiloride: A portion of the mixture (320 mg, ca. 0.788 mmol as based on the 1H-NMR spectrum) containing the 2-methoxy-5-{2-[5-(methoxvcarbonyl)-2-methylthio(3-thienyl)](1,3-thiazol-4-yl)}phenyl acetate (as prepared in the previous step) was treated according to the procedure in Example 10, step (b), using 415 mg (7.76 mmol) of ammonium chloride in 3.5 mL of toluene and 3.88 mL (7.66 mmol) of 2 M trimethylaluminum in toluene. After chromatography of the resulting residue on a 10 g silica SPE column (Waters Sep-Pak) with 10-40% MeOH-CH2Cl2, a light yellow solid was obtained which was dissolved in 45 mL of DMF and filtered to remove silica gel. Concentration under high vacuum and recrystallization from MeOH—Et2O afforded the title compound as a light tan solid (132 mg, 44%). 1H-NMR (300 MHz, DMSO-d6) δ 9.49 (broad s, 2H), 9.16 (broad s, 2H), 8.67 (s, 1H), 7.98 (s, 1H), 7.5 (obscured m, 3H), 7.00 (obscured d, 1H, J=8.3 Hz), 3.82 (s, 3H), and 2.79 (s, 3H). Mass spectrum (ESI) calcd. for C16H15N3O2S3: 378.0 (M+H). Found: 378.1.

reactant | 4-[4-(3-Hydroxy-4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine | OC=1C=C(C=CC1OC)C=1N=C(SC1)C=1C=C(SC1SC)C(=N)N | C16H15N3O2S3
reactant | 2-methoxy-5-{2-[5-(methoxvcarbonyl)-2-methylthio(3-thienyl)](1,3-thiazol-4-yl)}phenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)C=1N=C(SC1)C1=C(SC(=C1)C(=O)OC)SC)OC | C19H17NO5S3
reactant | ammonium chloride | 7.76 mmol, 415 mg | [Cl-].[NH4+]
reactant | trimethylaluminum | 7.66 mmol, 2 M, 3.88 mL | C[Al](C)C
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 4-[4-(3-Hydroxy-4-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxamidine hydrochloride | 132 mg, 44% | Cl.OC=1C=C(C=CC1OC)C=1N=C(SC1)C=1C=C(SC1SC)C(=N)N | InChI=1S/C16H15N3O2S3.ClH/c1-21-12-4-3-8(5-11(12)20)10-7-23-15(19-10)9-6-13(14(17)18)24-16(9)22-2;/h3-7,20H,1-2H3,(H3,17,18);1H
